US05610144
The operation is carried out in a fashion similar to that described in Example 2, but starting from 1.12 g of tert-butyl (2RS,5SR)-1-(2-aminoacetyl)-5-phenylprolinate and 1.3 cm3 of para-chlorophenyl isocyanate in 50 cm3 of tetrahydrofuran. After treatment, 1.2 g of tert-butyl (2RS,5SR)-1-{2-[3-(4-chlorophenyl)ureido]acetyl}-5-phenylprolinate are obtained in the form of an amorphous solid [proton NMR (250 MHz, DMSO D6, δ in ppm), 1.50 (s, 9H, (CH3)3); 1.85 (m, 2H, CH2); 2.2 and 2.4 (2m, 2H, CH2); 3.25 and 3.85 (ABX, 2H, CH2N); 4.30 (dd, 1H, CHN); 5.20 (dd, 1H, CHN); 6.3 (t, 1H exchangeable, NH); 7.2 to 7.6 (m, 9H, aromatic); 9 (s, 1H exchangeable, NH)], [infrared spectrum (KBr), characteristic bands in cm-1 3370, 3065, 3030, 2980, 2930, 287, 1735, 1595, 1490, 1450, 1545, 1365, 1150, 830, 760, 700].

reactant | tert-butyl (2RS,5SR)-1-(2-aminoacetyl)-5-phenylprolinate | 1.12 g | NCC(=O)N1C(C(=O)OC(C)(C)C)CCC1C1=CC=CC=C1 | C17H24N2O3
reactant | para-chlorophenyl isocyanate | 1.3 cm3 | ClC1=CC=C(C=C1)N=C=O | C7H4ClNO
reactant | KBr | [K+].[Br-]
solvent | tetrahydrofuran | 50 cm3 | O1CCCC1 | C4H8O
product | tert-butyl (2RS,5SR)-1-{2-[3-(4-chlorophenyl)ureido]acetyl}-5-phenylprolinate | 1.2 g | ClC1=CC=C(C=C1)NC(NCC(=O)N1C(C(=O)OC(C)(C)C)CCC1C1=CC=CC=C1)=O | C24H28ClN3O4
